US09108928B2
Under the nitrogen atmosphere, 20.0 g of 5-hydroxy-1H-imidazole-4-carboxamide hydrochloric acid salt dihydrate prepared according to the method of Reference Example 2 was added to 240 mL of 0.45 mol/L hydrochloric acid and dissolved therein by heating to 50° C. At 50° C., 40 mL aqueous solution containing 14.3 g of sodium formate was added dropwise thereto over 35 minutes. The reaction mixture was cooled and stirred for 90 minutes with the inside temperature of 5° C. The crystal was collected by filtration and then washed with a mixture liquid containing 20 mL of acetone and 40 mL of water followed by 60 mL of acetone to give 12.6 g of 5-hydroxy-1H-imidazole-4-carboxamide.3/4 hydrate as a pale yellow crystal.

reactant | 5-hydroxy-1H-imidazole-4-carboxamide hydrochloric acid salt dihydrate | 20.0 g | O.O.Cl.OC1=C(N=CN1)C(=O)N
reactant | hydrochloric acid | 0.45 mol/L, 240 mL | Cl | ClH
reactant | sodium formate | 14.3 g | C(=O)[O-].[Na+]
product | 5-hydroxy-1H-imidazole-4-carboxamide | 12.6 g | OC1=C(N=CN1)C(=O)N | C4H5N3O2
